US06294527B1
7-Carboxy-2-methylthio-4-oxo-4H-1-benzothiopyran (1.48 g, 5.87 mmol) was suspended in tetrahydrofuran (30 ml), added with triethylamine (1 ml, 7.17 mmol) and cooled to −10° C. Then, the reaction mixture was added dropwise with ethyl chlorocarbonate (0.6 ml, 5.94 mmol) and stirred at 0-5° C. for 0.5 hour. The reaction mixture was filtered and the insoluble matter was further washed with tetrahydrofuran (10 ml×2 times). The washing liquid was mixed with the previous tetrahydrofuran solution. Sodium borohidride (568 mg, 15 mmol) was suspended in water (8 ml) and added dropwise with the previously obtained tetrahydrofuran solution over 45 minutes under ice-water cooling. The reaction mixture was acidified with 2N hydrochloric acid and extracted by ethyl acetate (300 ml), washed with saturated saline solution and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was washed with ether to obtain 800mg (yield: 57%) of substaintially pure 7-hydroxymethyl-2-methylthio-4-oxo-4H-1-benzothiopyran.

reactant | 7-Carboxy-2-methylthio-4-oxo-4H-1-benzothiopyran | 5.87 mmol, 1.48 g | C(=O)(O)C1=CC2=C(C(C=C(S2)SC)=O)C=C1 | C11H8O3S2
reactant | triethylamine | 7.17 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 5.94 mmol, 0.6 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 7-hydroxymethyl-2-methylthio-4-oxo-4H-1-benzothiopyran | yield: 57% | OCC1=CC2=C(C(C=C(S2)SC)=O)C=C1 | C11H10O2S2
